### PR TITLE
[Merged by Bors] - refactor(Data/Polynomial): remove `open Classical`

### PR DESCRIPTION
**Pull request by eric-wieser**
This doesn't change any polynomial operations, but:
* Makes some `Decidable` values computable (otherwise, they're pointless!)
* Add a few missing arguments to lemmas here and there to make them more general

This is exhaustive, within the directories it touches.

Once again, the use of `letI := Classical.decEq R` instead of `classical` here is because of the weird style of proofs in these files, where `if` is preferred to `by_cases`.

---

- [x] depends on: #7709

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Polynomial/Degree/TrailingDegree.lean [hunk 1]
```diff
@@ -71,8 +71,8 @@ theorem TrailingMonic.def : TrailingMonic p ↔ trailingCoeff p = 1 :=
   Iff.rfl
 #align polynomial.trailing_monic.def Polynomial.TrailingMonic.def
 
--- Porting note: Removed unused argument `[DecidableEq R]`?
-instance TrailingMonic.decidable: Decidable (TrailingMonic p) := inferInstance
+instance TrailingMonic.decidable [DecidableEq R] : Decidable (TrailingMonic p) :=
+  inferInstanceAs <| Decidable (trailingCoeff p = (1 : R))
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Degree/TrailingDegree.lean:75]: Porting note is now gone, this argument was supposed to be used!

File: Mathlib/Data/Polynomial/Div.lean [hunk 2]
```diff
@@ -555,8 +567,10 @@ set_option linter.uppercaseLean3 false in
 /- Porting note: stripping out classical for decidability instance parameter might
 make for better ergonomics -/
 /-- The largest power of `X - C a` which divides `p`.
-This is computable via the divisibility algorithm `Polynomial.decidableDvdMonic`. -/
+This *could be* computable via the divisibility algorithm `Polynomial.decidableDvdMonic`,
+as shown by `Polynomial.rootMultiplicity_eq_nat_find_of_nonzero` which has a computable RHS. -/
 def rootMultiplicity (a : R) (p : R[X]) : ℕ :=
+  letI := Classical.decEq R
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Div.lean:573]: Making this computable is out of scope for this PR (and it would be a tradeoff that people might not want anyway).

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 3]
```diff
@@ -370,7 +370,7 @@ introduced `Polynomial.rootMultiplicity_eq_nat_find_of_nonzero` to contain the i
 theorem le_rootMultiplicity_iff {p : R[X]} (p0 : p ≠ 0) {a : R} {n : ℕ} :
     n ≤ rootMultiplicity a p ↔ (X - C a) ^ n ∣ p := by
   classical
-  rw [rootMultiplicity_eq_nat_find_of_nonzero p0, Nat.le_find_iff]
+  rw [rootMultiplicity_eq_nat_find_of_nonzero p0, @Nat.le_find_iff _ (_)]
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/RingDivision.lean:373]: This one is the only real regression in my opinion

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
